US08629270B2
Benzyl N-allyl-N-(2-oxoethyl)carbamate
A solution of benzyl N-allyl-N-(2,2-dimethoxyethyl)carbamate (30 g, 107 mmol) in formic acid (36.8 mL, 860 mmol) and water (4.84 mL) is stirred at room temperature overnight. The mixture is concentrated and diluted with hexanes/ethyl acetate (1:2) and water. The organic layer is separated, washed with brine solution until pH=6, and dried over sodium sulfate. The solvent is evaporated to give the title compound (25 g, 99%). ES/MS (m/e): 234 (M+H).

reactant | benzyl N-allyl-N-(2,2-dimethoxyethyl)carbamate | 107 mmol, 30 g | C(C=C)N(C(OCC1=CC=CC=C1)=O)CC(OC)OC | C15H21NO4
reactant | formic acid | 860 mmol, 36.8 mL | C(=O)O | CH2O2
solvent | water | 4.84 mL | O | H2O
product | Benzyl N-allyl-N-(2-oxoethyl)carbamate | 25 g, 99% | C(C=C)N(C(OCC1=CC=CC=C1)=O)CC=O | C13H15NO3
